US07399780B2
2-Oxoindoline-5-carbaldehyde
Chromium(VI) oxide (240 mg, 2.4 mmol) was added to ice-cooled pyridine (3 mL). To the formed yellow suspension was added additional pyridine (2 mL) and 5-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one (130 mg, 0.8 mmol) dissolved in pyridine (3 mL). The reaction was quenched after 15 min by the addition of water (50 mL) and extracted with ethyl acetate. The organic phases were dried (Na2SO4) and evaporated in vacuo. The crude product was purified on a silica gel column using methylene chloride/methanol, (10:1), as the eluent to give 60 mg (46% yield) of the title compound.

reactant | 5-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | 0.8 mmol, 130 mg | OCC=1C=C2CC(NC2=CC1)=O | C9H9NO2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
catalyst | Chromium(VI) oxide | 2.4 mmol, 240 mg | [O-2].[Cr+6].[O-2].[O-2]
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-Oxoindoline-5-carbaldehyde | 60 mg, 46% yield | O=C1NC2=CC=C(C=C2C1)C=O | C9H7NO2
